* C:\Projects\datalogger\circuits\highsideswitch\Draft1.asc
Q1 N005 N006 0 0 2N3904
R1 PWRControl N006 1k tol=5
R2 N005 N003 1k tol=5
V1 Vbatt 0 3.3 Rser=.1
R_load Vsensor 0 300 tol=5
S1 Vbatt PWRControl N002 N001 MYSW
R_pulldown PWRControl 0 30k
V2 N001 N002 PULSE(0 -5 0 .001 .001 1 2)
Q2 N004 N003 Vbatt 0 PNP
D1 N004 Vsensor 1N5817
.model D D
.lib C:\Users\mike\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\mike\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 4 0 startup
.model MYSW SW(Ron=1 Roff=1Meg Vt=.5 Vh=0.4
.backanno
.end
